Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male well-known to our service who has a 
history of cholangiocarcinoma with recent admission for e.coli 
bacteremia and c.diff colitis now being transferred from an OSH 
for altered mental status. Per report from the OSH, the night 
prior to transfer, on ___ at 5pm, the patient's wife noticed 
that he was only answering yes and no to questions. He went to 
the ER, where they did a CT, which was by report, normal. He was 
admitted to the hospital and a neurology consult was ordered but 
not performed. An EEG was also ordered but not performed. He had 
a normal UA and normal labs, except his coags were slightly 
elevated. He had blood cultures obtained. He was noticed to have 
waxing/waning mental status, sometimes being angry and irritated 
and sometimes responding only yes/no and repeating the word 
"glitch" often. He did receive one dose of aspirin 81mg on the 
day of transfer. His vital signs prior to transfer were: BP 
129/80 RR 18 HR 93 T 97.4 O2 sat 99%. 

In speaking to the patient, he says "everything is fine." And he 
explains in detail how the protein in his brain is "glitched" 
and not firing correctly. However, he then is unable to add 
90+3.
 
Review of Systems:  
unable to obtain  
 
Past Medical History:
PAST MEDICAL HISTORY: 
GERD
Rosacea
BPH
Intermittent migraines conrolled on atenolol
Arthritis

PAST ONCOLOGIC HISTORY:  
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma.  Cytology was suspicious 
for
carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle 1
-___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3 Cis/Gem
 
Social History:
___
Family History:
His grandfather had a cancer of the bone.  He has no other 
family history of malignancy.

 
Physical Exam:
ADMISSION EXAM
Vitals: 98 139/82 82 20 97%  
GENERAL:  well appearing.
CARDIAC:  no m/r/g RRR
LUNG:  CTAB, no w/r/r
ABDOMEN: Obese, + BS NTND, No rebound or guarding. faint bowel 
sounds
EXTREMITIES:  no cyanosis, clubbing, edema
PULSES:  2+ in ___ and bilateral radial
NEURO:  CN II-XII intact. EOMI intact without nystagmus. 
Strength in UE and ___ is ___. Sensation to light touch intact. 
Able to repeat, "No ifs, ands, or buts" and able to repeat "the 
cat ran under the couch whenever the dog was around" multiple 
errors with months backwards. Unable to subtract ___ unable 
to add 90+3. Mental status: appropriate to a degree, can answer 
simple yes/no questions, attentive, good concentration. Basic 
fund of knowledge intact (___ as ___, sky is blue[not 
green as asked] etc.), answers "yes" to 'having difficulty 
speaking the words in his head' and to 'having fast thoughts'
SKIN: no rashes 

DISCHARGE EXAM
Vitals: 97.5, 98.0, 102/60, 90, 20, 98% RA
GENERAL:  well appearing, NAD.
CARDIAC:  no m/r/g RRR
LUNG:  CTAB, no w/r/r
ABDOMEN: Obese, + BS NTND, No rebound or guarding. faint bowel 
sounds
EXTREMITIES:  no cyanosis, clubbing, edema
PULSES:  2+ in ___ and bilateral radial
NEURO:  CN II-XII intact. EOMI intact without nystagmus. 
Strength in UE and ___ is ___. Sensation to light touch intact. 
Able to repeat, "No ifs, ands, or buts". 
Mental status: appropriate, attentive, pleasant, watching TV.
Basic fund of knowledge intact (___ as ___, can describe 
prokaryote vs eukaryote). Cannot do serial 7 subtractions; can 
do days of week bkwds but is slow. Can repeat 3 objects 5 
minutes later when asked to remember them.
SKIN: no rashes 

 
Pertinent Results:
ADMISSION LABS
___ 08:45PM BLOOD WBC-6.1 RBC-2.90* Hgb-8.6* Hct-26.8* 
MCV-92 MCH-29.6 MCHC-32.1 RDW-16.9* Plt ___
___ 08:45PM BLOOD ___ 08:45PM BLOOD Glucose-111* UreaN-9 Creat-0.6 Na-138 
K-4.1 Cl-104 HCO3-25 AnGap-13
___ 08:45PM BLOOD ALT-32 AST-50* AlkPhos-140* TotBili-0.5
___ 08:45PM BLOOD Calcium-9.0 Phos-4.1 Mg-2.1
___ 05:22AM BLOOD TSH-2.9
___ 09:08PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 09:08PM URINE Color-Straw Appear-Clear Sp ___

IMAGING
MRI BRAIN ___
No significant changes are demonstrated since the most recent 
study, there is no evidence of acute or subacute intracranial 
process.  There 
is no evidence of abnormal enhancement to suggest metastatic 
disease.  Foci of 
high signal intensity identified in the subcortical and 
periventricular white 
matter on T2 and FLAIR sequences are likely consistent with 
changes due to 
small vessel disease. 

EEG ___
This telemetry captured no pushbutton activations. It showed a 
normal background in wakefulness and sleep. There were no focal 
abnormalities 
or epileptiform features. 

EEG ___
This telemetry captured no pushbutton activations. It showed a 
mildly slow background throughout the one that reached 8 Hz 
frequency 
posteriorly in wakefulness at times. There were no substantial 
abnormalities. 
There were no areas of prominent focal slowing. There were no 
epileptiform 
features or electrographic seizures.  

DISCHARGE LABS
___ 04:43AM BLOOD WBC-7.5 RBC-3.83* Hgb-11.2* Hct-36.3* 
MCV-95 MCH-29.4 MCHC-31.0 RDW-16.8* Plt ___
___ 04:43AM BLOOD Glucose-115* UreaN-7 Creat-0.6 Na-136 
K-4.2 Cl-102 HCO3-27 AnGap-11
___ 04:43AM BLOOD ALT-31 AST-43* LD(LDH)-210 AlkPhos-127 
TotBili-0.4
___ 04:43AM BLOOD Calcium-9.0 Phos-3.5 Mg-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with cholangiocarcinoma s/p 3 
cycles of Cis/Gem (last dose on ___ C3D8) who presented 
with altered mental status after recent admission for e.coli 
bacteremia and c.diff.

ACUTE CARE
# Altered mental status: Concern high for stroke initially but 
exam non focal with motor and sensory intact and MRI brain 
without abnormalities. Neurology consultants did not feel that 
there was a central explanation for his change in mental status 
and EEG was also negative. MRI did not show signs of metastatic 
disease to the brain so neuro-oncology was only involved 
initially.
He was felt to be slightly disinhibited and slightly manic, thus 
psychiatry was consulted, but their opinion was that this was 
not a psychiatric disorder due to the patient's lack of psych 
history, very unlikely to have initial presentation at age ___. 
Infectious disease was also re-consulted and they did not feel 
that infection or antibiotic side effect could account for this 
presentation. Thus, no LP was done.
Ultimately, it was felt that he patient had delirium which was 
secondary to a combination of frontotemporal dementia which was 
unmasked with the stresses of chemo, bacteremia, c.diff, 
antibiotics, hospitalization, and cancer. He did have some signs 
of  white matter changes in the frontal regions of the MRI. 
Thus, he was started on olanzapine and he was much improved back 
to his baseline at time of discharge.

# E. Coli bacteremia: from prior hospitalization, presumed to be 
cholangitis source. ID following; Ertapenem or meropenem until 
___.

# C.diff diarrhea: resolved diarrhea. Treatment course scheduled 
through ___ he was continued on PO vanco while he is being 
treated with meropenem and for 2 weeks 
following completion of ertapenem/meropenem, until ___.

CHRONIC CARE
# Cholangiocarcinoma: s/p 3 cycles of Cis/Gem.  Pt reports 
increased side effects with most recent dose on ___. With 
his AMS, may need to recalculate performance status to see if 
this will affect outpatient chemo.

# HTN: discontinue atenolol, as may be affecting mental status

# BPH: discontinue terazosin, as may be affecting mental status
 
TRANSITIONAL ISSUES:
#. CODE: FULL, confirmed 
#. HCP: wife ___, cell ___, work ___ 
home, ___
#.ISSUES TO ADDRESS AT FOLLOW UP:
- Atenolol and terazosin were held during this admission, due to 
normotensive BP's, and initial concern for contribution of his 
home Rx to his AMS. These can be restarted if the pt's BPs are 
stable and if lower urinary tract Sx demand.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU BID 
3. Loratadine 10 mg PO DAILY 
4. Pantoprazole 40 mg PO Q24H 
5. Terazosin 10 mg PO HS 
6. TraZODone 100 mg PO HS:PRN insomnia 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
9. Multivitamins 1 TAB PO DAILY 
10. Vancomycin Oral Liquid ___ mg PO/NG Q6H 
11. Lorazepam 0.5 mg PO ONCE 
12. Ondansetron 8 mg PO ONCE 

 
Discharge Medications:
1. Fish Oil (Omega 3) 1000 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU BID 
3. Loratadine 10 mg PO DAILY 
4. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
5. Multivitamins 1 TAB PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. OLANZapine 2.5-5 mg PO HS 
RX *olanzapine 2.5 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
8. ertapenem 1 gram injection q24hr Duration: 3 Doses 
RX *ertapenem [Invanz] 1 gram 1 gram IV daily Disp #*3 Each 
Refills:*0
9. Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin 125 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*65 Capsule Refills:*0
10. Terazosin 10 mg PO HS 

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary diagnosis:
Delirium

Secondary diagnoses:
cholangiocarcinoma 
e.coli bacteremia 
c.diff colitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege to provide care for you here at the ___ 
___. You were admitted because you were 
having some confusion and altered mental status. You were 
evaluated with an MRI and EEG, and were not found to have 
seizures. You were also evaluated by neurology and psychiatry, 
and were started on a new medicine for hospital-associated 
delirium. Your condition has improved and you can be discharged 
to home.

The following changes were made to your medications:
NEW:
-Olanzapine (for delirium)
-Vancomycin (antibiotic): for c difficile infection of GI tract, 
take one tablet at 6pm tonight then take one tablet every 6 
hours (4 tablets in 24 hours) everyday through ___.
-Ertapenem (antibiotic): for e coli blood stream infection, 
provided by infusion company

Please keep your follow-up appointments as scheduled below.

 
Followup Instructions:
___